US07850955B2
108 g of L-glutamine was dissolved in 343 g of water and 102 g of aqueous 27% sodium hydroxide solution, and cooled to 10° C. 138 g of acetone was added to it, and 152 g of lauroyl chloride and 108 g of aqueous 27% sodium hydroxide solution were dropwise added thereto. The acylation liquid was diluted with 300 g of water, then neutralized with 35 g of 75% sulfuric acid and filtered to obtain a white powdery substance, N-lauroyl-L-glutamine. 72.4 g of thionyl chloride was dropwise added to 424 g of isopropyl alcohol, then 100 g of N-lauroyl-L-glutamine was added thereto and reacted at room temperature for 8.5 hours. The reaction liquid was added to 2.0 L of water to precipitate the intended product, and this was taken out by filtration to obtain a crude product. This was recrystallized repeatedly three times with acetone to obtain 59.1 g of N-lauroyl-L-glutamine isopropyl ester.

reactant | thionyl chloride | 72.4 g | S(=O)(Cl)Cl | Cl2OS
reactant | isopropyl alcohol | 424 g | C(C)(C)O | C3H8O
reactant | N-lauroyl-L-glutamine | 100 g | C(CCCCCCCCCCC)(=O)N[C@@H](CCC(N)=O)C(=O)O | C17H32N2O4
solvent | water | 2.0 L | O | H2O
product | N-lauroyl-L-glutamine isopropyl ester | 59.1 g | C(C)(C)OC([C@@H](NC(CCCCCCCCCCC)=O)CCC(N)=O)=O | C20H38N2O4
